US08476297B2
Step 3: (R)—N-(Pyridin-2-yl)-1-(4-(trifluoromethyl)phenyl)-3,4-dihydroisoquinoline-2(1H)-carboxamide
To a solution of (R)-1-(4-(trifluoromethyl)phenyl)-1,2,3,4-tetrahydroisoquinoline (100 mg, 0.361 mmol) in MeCN (2 mL) was added 4-nitrophenyl pyridin-2-ylcarbamate (467 mg, 1.80 mmol). The resulting mixture was then heated at 70° C. for 16 h, cooled to RT and filtered. The white solid obtained was washed with DCM (2×2 mL). The combined filtrates were then concentrated and the residue purified by silica gel flash column chromatography (0%-100% EtOAc/hexane) to give the title compound as a colorless solid. MS (ESI, positive ion) m/z: 398 (M+H).

reactant | (R)-1-(4-(trifluoromethyl)phenyl)-1,2,3,4-tetrahydroisoquinoline | 0.361 mmol, 100 mg | FC(C1=CC=C(C=C1)[C@H]1NCCC2=CC=CC=C12)(F)F | C16H14F3N
reactant | 4-nitrophenyl pyridin-2-ylcarbamate | 1.80 mmol, 467 mg | N1=C(C=CC=C1)NC(OC1=CC=C(C=C1)[N+](=O)[O-])=O | C12H9N3O4
solvent | MeCN | 2 mL | CC#N | C2H3N
product | (R)—N-(Pyridin-2-yl)-1-(4-(trifluoromethyl)phenyl)-3,4-dihydroisoquinoline-2(1H)-carboxamide | N1=C(C=CC=C1)NC(=O)N1[C@@H](C2=CC=CC=C2CC1)C1=CC=C(C=C1)C(F)(F)F | C22H18F3N3O
